US07863305B2
To a solution of 3-indol-1-yl-3-phenyl-propan-1-ol (0.166 g, 0.66 mmol) in CH2Cl2 (20 mL) and triethylamine (0.087 g, 0.85 mmol) at 0° C. was added methanesulfonyl chloride (0.083 g, 0.72 mmol), and the mixture was stirred for 1 hour at room temperature. The reaction mixture was poured into an aqueous saturated solution of NaHCO3 (50 mL) and extracted with CH2Cl2 (2×50 mL). The organic layer was dried over Na2SO4, and the solvent was removed under vacuum. The residue was diluted in MeCN (50 mL) and treated with LiCl (0.084 g, 1.98 mmol), and the reaction mixture was heated to reflux temperature for 24 hours. The solvent was removed under vacuum and the crude product was chromatographed (SiO2, Hexanes/EtOAc, 9:1) to afford 0.145 g (81% yield) of 1-(3-chloro-1-phenyl-propyl)-1H-indole as an oil.

reactant | 3-indol-1-yl-3-phenyl-propan-1-ol | 0.66 mmol, 0.166 g | N1(C=CC2=CC=CC=C12)C(CCO)C1=CC=CC=C1 | C17H17NO
reactant | triethylamine | 0.85 mmol, 0.087 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.72 mmol, 0.083 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
reactant | LiCl | 1.98 mmol, 0.084 g | [Li+].[Cl-]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-chloro-1-phenyl-propyl)-1H-indole | 0.145 g, 81% yield | ClCCC(C1=CC=CC=C1)N1C=CC2=CC=CC=C12 | C17H16ClN
